US06969717B2
A 25 mL flask was charged with 5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazin-6-ol (450 mg, 1.87 mmol, WO 0071129), (2-hydroxyethyl)-carbamic acid tert-butyl ester (577 μL, 3.73 mmol), tetrahydrofuran (9.3 mL) and cooled to 0° C. Triphenylphosphine (978 mg, 3.73 mmol), diethyl azodicarboxylate (310 μL, 1.96 mmol) were then added. The mixture was stirred at 23° C. for 15 h then concentrated in vacuo. The crude material was purified by flash chromatography eluting with a mixture of 20% ethyl acetate in hexane to give [2-(5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazin-6-yloxy)-ethyl]-carbamic acid tert-butyl ester. 1H NMR (400 MHz, DMSO-d6) δ 8.98 (1H, s), 7.93 (1H, s), 7.89 (1H, s), 7.46 (2H, t, J=4.5 Hz), 7.30 (2H, d, J=8.4 Hz), 7.04 (1H, t, J=5.6 Hz), 4.05-3.98 (4H, m), 2.36 (3H, s), 1.38 (9H, s). LCMS; m/z 385 (M+H+). B. The procedure described in Step A of Example 7 was applied starting with (865 mg, 2.25 mmol) of [2-(5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazin-6-yloxy)-ethyl]-carbamic acid tert-butyl ester to afford [2-(5-methyl-4-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-6-yloxy)-ethyl]-carbamic acid tert-butyl ester (652.7 mg, 86%). 1H NMR (400 MHz, DMSO-d6) δ 8.98 (1H, s), 8.17 (1H, s), 7.79 (1H, s), 7.02 (1H, t, J=5.6 Hz), 4.02 (2H, q, J=7.3 Hz), 3.96 (2H, t, J=5.6 Hz), 2.59 (3H, s), 2.35 (3H, s), 1.37 (9H, s). LCMS; m/z 339 (M+H+). C. The procedure described in Example 7 was employed starting with (100 mg, 0.30 mmol) of [2-(5-methyl-4-methylsulfanylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy)-ethyl]-carbamic acid tert-butyl ester to afford {2-[4-(4-Fluoro-1H-pyrrolo[2,3-b]pyridin-5-yloxy)-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-6-yloxy]-ethyl}-carbamic acid tert-butyl ester (42 mg,73%). 1H NMR (400 MHz, DMSO-d6) δ 12.17 (1H, s), 8.31 (1H, d, J=9.3 Hz), 7.96 (1H, s), 7.94 (1H, s), 7.62 (1H, s), 7.05 (1H, m), 6.60 (1H, s), 4.02 (2H, m), 3.32 (2H, m), 2.40 (3H, s), 1.38 (9H, s). LCMS; m/z 443 (M+H+). D. To a solution of {2-[4-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-yloxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy]-ethyl}-carbamic acid tert-butyl ester (30 mg, 0.068 mmol) in dichloromethane (1.4 mL) was added the trifluoroacetic acid (0.14 mL) at RT. After 160 min, the mixture was concentrated and the residue was purified by preparative HPLC and, after concentration, the hydrochloride salt was made using a 1N aqueous solution of HCl in acetonitrile and the salt was lyophilized to afford of 2-[4-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-yloxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy]-ethylamine (14.1 mg, 53%) as a white lyophilate. 1H NMR (400 MHz, DMSO-d6) δ 12.19 (1H, s), 8.31 (1H, d, J=9.6 Hz), 8.13 (3H, broad s), 8.05 (1H, s), 7.97 (1H, s), 7.62 (1H, t, J=3.0 Hz), 6.59 (1H, dd, J=1.8, 3.5 Hz), 4.24 (2H, t, J=4.8 Hz), 3.26 (2H, q, J=5.3 Hz), 2.47 (3H, s). LCMS; m/z 343 (M+H+). HRMS calculated for C16H15FN6O2: 343.1318, found: 343.1309.

reactant | {2-[4-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-yloxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy]-ethyl}-carbamic acid tert-butyl ester | 0.068 mmol, 30 mg | C(C)(C)(C)OC(NCCOC=1C(=C2C(=NC=NN2C1)OC=1C(=C2C(=NC1)NC=C2)F)C)=O | C21H23FN6O4
reactant | trifluoroacetic acid | 0.14 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.4 mL | ClCCl | CH2Cl2
product | 2-[4-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-yloxy)-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy]-ethylamine | 14.1 mg, 53% | FC1=C2C(=NC=C1OC1=NC=NN3C1=C(C(=C3)OCCN)C)NC=C2 | C16H15FN6O2
